US09034866B2
Synthesis of 9-[4-hydroxy-3-methyl-3-(5-methyl-4H-[1,2,4]triazol-3-yl)-but-1-ynyl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide
9-[4-(tert-Butyl-dimethyl-silanyloxy)-3-methyl-3-(5-methyl-4H-[1,2,4]triazol-3-yl)-but-1-ynyl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide (120 mg, 0.2 mmol) was dissolved in THF (10 mL), TBAF (62.9 mg, 0.24 mmol) was added. The mixture was stirred at room temperature for 14 h. The mixture was purified via HPLC separation (0.1% HCOOH) to afford the titled compound (17.6 mg, 23.0%). 1H-NMR (DMSO-d6, 400 MHz): δ 114 (s, 1H), 8.45 (s, 1H), 7.77 (s, 1H), 7.51 (s, 1H), 7.29 (s, 1H), 7.11 (s, 1H), 6.98 (d, J=8.4 Hz, 1H), 5.05 (s, 1H), 4.45 (s, 4H), 3.77 (s, 2H), 2.29 (s, 3H), 1.21 (s, 3H). LCMS: [M+H]+=393.0.

reactant | 9-[4-(tert-Butyl-dimethyl-silanyloxy)-3-methyl-3-(5-methyl-4H-[1,2,4]triazol-3-yl)-but-1-ynyl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | 0.2 mmol, 120 mg | C(C)(C)(C)[Si](OCC(C#CC=1C=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C1)(C1=NN=C(N1)C)C)(C)C | C26H34N6O3Si
reactant | TBAF | 0.24 mmol, 62.9 mg | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 9-[4-hydroxy-3-methyl-3-(5-methyl-4H-[1,2,4]triazol-3-yl)-but-1-ynyl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | 17.6 mg, 23.0% | OCC(C#CC=1C=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C1)(C1=NN=C(N1)C)C | C20H20N6O3
